US05155133
a) (4S)-2,2-Dimethyl-4-(4-cyanophenoxy)methyl-1,3-dioxolane
A solution of 4-hydroxy benzonitrile (55 g) in methanol (100 ml) was treated with potassium hydroxide (29 g) in water (30 ml) and evaporated at reduced pressure. The remaining potassium salt was dissolved in dry dimethylformamide (75 ml) and (4R)-2,2-dimethyl-4 - methanesulfonyloxymethyl-1,3-dioxolane, 82.2 g, was add stirring at 110° C. for 20 h, allowed to cool and distributed between ether and water. The aqueous phase was extracted three times with ether, the combined ether phases washed three times with 10% aqueous potassium hydroxide and twice with water, dried over anhydrous sodium sulfate and evaporated. Yield 77 g of the title compound.

reactant | 4-hydroxy benzonitrile | 55 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | potassium hydroxide | 29 g | [OH-].[K+]
reactant | water | 30 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | (4S)-2,2-Dimethyl-4-(4-cyanophenoxy)methyl-1,3-dioxolane | CC1(OC[C@@H](O1)COC1=CC=C(C=C1)C#N)C | C13H15NO3
